US07160887B1
5% carbon-palladium (1.1 g) was added to an ethyl acetate (50 ml) solution of tert-butyl(1S)-(-)-1-[3-(5-chloro-2-nitrophenoxy)phenyl]ethylcarbamate (3.5 g, 8.9 mmols). The resulting mixture was hydrogenated at room temperature under atmospheric pressure for 1 hour. The catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure. The residue was purified through silica gel column chromatography to give an oil of tert-butyl(1S)-1-[3-(2-amino-5-chlorophenoxy)phenyl]ethylcarbamate (3.2 g, 99%).

reactant | tert-butyl(1S)-(-)-1-[3-(5-chloro-2-nitrophenoxy)phenyl]ethylcarbamate | 8.9 mmols, 3.5 g | ClC=1C=CC(=C(OC=2C=C(C=CC2)[C@H](C)NC(OC(C)(C)C)=O)C1)[N+](=O)[O-] | C19H21ClN2O5
catalyst | carbon palladium | 1.1 g | [C].[Pd]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl(1S)-1-[3-(2-amino-5-chlorophenoxy)phenyl]ethylcarbamate | 3.2 g, 99% | NC1=C(OC=2C=C(C=CC2)[C@H](C)NC(OC(C)(C)C)=O)C=C(C=C1)Cl | C19H23ClN2O3
